US07365066B2
6-Fluoro-pyridine-2-carboxylic acid methoxy-methyl-amide
Add N-methylmorpholine (6 mL, 52 mmol) and isobutylchloroformate (3.5 mL, 26.9 mmol) to a solution of 6-fluoropyridine-2-carboxylic acid (3.8 g, 26.9 mmol) in methylene chloride at 0° C. After 15 minutes add O,N-dimethylhydroxylamine hydrochloride (2.6 g, 26.9 mmol) and N-methylmorpholine (3 mL, 26.9 mmol). Stir the reaction at 0° C. for 15 minutes and then room temperature for 17 hours. Dilute the reaction with methylene chloride and wash sequentially with water (1×50 mL), 10% aqueous citric acid (1×50 mL), brine (1×50 mL), saturated aqueous sodium bicarbonate (1×50 mL), and brine (1×50 mL). Dry the resulting organic solution with Na2SO4, filter, and purify by flash column chromatography (Silica Gel, 20% acetone/hexanes) to provide the title compound 0.97 g (18% from 2-fluoro-5-methylpyridine) as a clear, yellow oil.

reactant | N-methylmorpholine | 52 mmol, 6 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 26.9 mmol, 3.5 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 6-fluoropyridine-2-carboxylic acid | 26.9 mmol, 3.8 g | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | O,N-dimethylhydroxylamine hydrochloride | 26.9 mmol, 2.6 g | Cl.CONC
reactant | N-methylmorpholine | 26.9 mmol, 3 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Fluoro-pyridine-2-carboxylic acid methoxy-methyl-amide | 0.97 g, 18% | CON(C(=O)C1=NC(=CC=C1)F)C | C8H9FN2O2
